US04268509
To a solution of 1-[1-(aminomethyl)ethyl]-1H-tetrazole-5-thiol hydrochloride (17 g) and triethylamine (19.33 g) in 50% aqueous dioxane (80 ml) was added a solution of 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile (21.4 g) in dioxane (50 ml) under cooling in an ice bath. The mixture was stirred for 1.5 hours at ambient temperature and concentrated to third volume. The aqueous solution was washed with diethyl ether and the washings were reextracted with aqueous solution of potassium carbonate. The two aqueous solutions were combined, washed with diethyl ether and mixed with ethyl acetate. The mixture was acidified with 10% hydrochloric acid and the organic layer was separated out. The solution was dried over magnesium sulfate and evaporated to dryness. The residue was triturated with n-hexane to give 1-[1-{(N-t-butoxycarbonylamino)methyl}ethyl]-1H-tetrazole-5-thiol (19.15 g), mp 156° to 158° C.

reactant | 1-[1-(aminomethyl)ethyl]-1H-tetrazole-5-thiol hydrochloride | 17 g | Cl.NCC(C)N1N=NN=C1S
reactant | triethylamine | 19.33 g | C(C)N(CC)CC | C6H15N
reactant | 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile | 21.4 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-[1-{(N-t-butoxycarbonylamino)methyl}ethyl]-1H-tetrazole-5-thiol | 19.15 g | C(C)(C)(C)OC(=O)NCC(C)N1N=NN=C1S | C9H17N5O2S
